US06110962
(R)-6-Bromo-11-[3,5-dibromo-4-(1-hydroxymethyl-2-phenyl-ethoxy)-phenyl]-benzo[b]naphtho[2,3-d]thiophene
A solution of R)-2-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11 -yl)-phenoxy]-3-phenyl-propionic acid, methyl ester (0.30 g, 0.414 mmol) in THF (4.2 mL) was added dropwise to a -78 ° C., stirred solution of mixed hydride (0.435 mL, 0.414 mmol) of lithium aluminum hydride/aluminum chloride (1.0 M solution in THF) in THF (3 mL) under a dry nitrogen atmosphere over a period of 5 min. After 1 h., the solution was allowed to warm to ambient temperature. After 2 h. the reaction mixture was quenched carefully with methanol (3 mL) and further diluted with water (80 mL). Aqueous mixture was extracted with ethyl acetate (2×80 mL). The ethyl acetate extracts were washed with water, dried with brine and anhydrous MgSO4, and concentrated to provide the title compound as a white solid (0.28 g, 97%): mp 83-85: MS (EI): [M+], 3 bromine isotope pattern, 694, 696, 698, 700.

reactant | 2-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11 -yl)-phenoxy]-3-phenyl-propionic acid, methyl ester | 0.414 mmol, 0.30 g | BrC1=C(OC(C(=O)OC)CC2=CC=CC=C2)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C32H21Br3O3S
reactant | hydride | 0.414 mmol, 0.435 mL | [H-]
reactant | lithium aluminum hydride aluminum chloride | 1.0 M | [H-].[Al+3].[Li+].[H-].[H-].[H-].[Cl-].[Al+3].[Cl-].[Cl-]
solvent | THF | 4.2 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (R)-6-Bromo-11-[3,5-dibromo-4-(1-hydroxymethyl-2-phenyl-ethoxy)-phenyl]-benzo[b]naphtho[2,3-d]thiophene | 0.28 g, 97% | BrC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC(=C(C(=C3)Br)O[C@H](CC3=CC=CC=C3)CO)Br | C31H21Br3O2S
